US08048894B2
Method 7. Preparation of Ethyl 4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate
6-Iodo-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione. To a stirred solution of 5-iodo-2-(methylamino)benzoic acid (10 g, 36 mmol), sodium carbonate (4 g, 36 mmol) and water (130 mL, 7218 mmol), cooled to 0° C., was slowly added, via addition funnel, a 2M phosgene (18 mL, 36 mmol) solution in toluene. After 2 hours, the precipitated product was isolated by filtration. The solids were washed with 100 mL of water, 150 mL of a 1:1 mixture of EtOH and ether, 100 mL of ether, and dried under vacuum to give the title compound.

reactant | 6-Iodo-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | IC1=CC2=C(N(C(OC2=O)=O)C)C=C1 | C9H6INO3
reactant | 5-iodo-2-(methylamino)benzoic acid | 36 mmol, 10 g | IC=1C=CC(=C(C(=O)O)C1)NC | C8H8INO2
reactant | sodium carbonate | 36 mmol, 4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 7218 mmol, 130 mL | O | H2O
reactant | phosgene | 36 mmol, 2M, 18 mL | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate | OC1=C(C(N(C2=CC=C(C=C12)I)C)=O)C(=O)OCC | C13H12INO4
